US06599902B2
Synthesis of 5-(2,6-Dichloro-phenylmethanesulfonyl)-3-[1-[3-((3R,5S)-3,5-dimethyl-piperazine-1-carbonyl)-5-methyl-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one
A mixture of 2-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-5-methyl-1H-pyrrole-3-carboxylic acid (120 mg, 0.24 mmol), (2R,6S)-2,6-dimethyl-piperazine (32 mg, 1.2 eq.), HOBt (1.2 eq.), EDAC.HCl (1.2 eq.) and TEA (3 eq.) in DMF (10 mL) was stirred at rt for overnight. The reaction was concentrated and purified on s silica gel column to give the titled compound.

reactant | 2-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-5-methyl-1H-pyrrole-3-carboxylic acid | 0.24 mmol, 120 mg | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C=1NC(=CC1C(=O)O)C | C22H16Cl2N2O5S
reactant | (2R,6S)-2,6-dimethyl-piperazine | 32 mg, 1.2 eq. | C[C@H]1N[C@H](CNC1)C | C6H14N2
reactant | HOBt | 1.2 eq. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDAC.HCl | 1.2 eq. | CCN=C=NCCCN(C)C.Cl
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 5-(2,6-Dichloro-phenylmethanesulfonyl)-3-[1-[3-((3R,5S)-3,5-dimethyl-piperazine-1-carbonyl)-5-methyl-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C=1NC(=CC1C(=O)N1C[C@H](N[C@H](C1)C)C)C | C28H28Cl2N4O4S
